US06821967B2
9-[4-(4-quinazolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 2-piperazin-1-yl-quinazoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 2-piperazin-1-yl-quinazoline | N1(CCNCC1)C1=NC2=CC=CC=C2C=N1 | C12H14N4
product | 9-[4-(4-quinazolin-2-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2CCN(CC2)C2=NC3=CC=CC=C3C=N2)C=C1 | C37H36FN5O
